US08895558B2
Step 3: 8-(piperazin-1-yl)quinoline hydrochloride
tert-Butyl 4-(quinolin-8-yl)piperazine-1-carboxylate (2.4 g, 7.66 mmol) was dissolved in methanol (50 ml) and SOCl2 was added to the solution dropwise at 0° C. The resulting solution was refluxed for 1 day and evaporated under reduced pressure. EtOAc (50 ml) was added to the residue and stirred for 2 hours to produce light yellow solid. The title compound was collected by filtration (1.7 g, 89%) as light yellow solid.

reactant | tert-Butyl 4-(quinolin-8-yl)piperazine-1-carboxylate | 7.66 mmol, 2.4 g | N1=CC=CC2=CC=CC(=C12)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23N3O2
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
solvent | methanol | 50 ml | CO | CH4O
product | 8-(piperazin-1-yl)quinoline hydrochloride | Cl.N1(CCNCC1)C=1C=CC=C2C=CC=NC12 | InChI=1S/C13H15N3.ClH/c1-3-11-4-2-6-15-13(11)12(5-1)16-9-7-14-8-10-16;/h1-6,14H,7-10H2;1H
